US05403851
A solution of 11.7 g (69.3 mmol) of carbonyldiimidazole and 5.0 g (69.3 mmol) of cyclopropylmethanol in 150 mL of THF was stirred, under nitrogen and later at room temperature for 4-5 hours or the time until the TLC (silica gel; hexane-ethylacetate, 4:1) analysis indicated a complete disappearance of cyclopropylmethanol in the mixture. To this reaction mixture, a solution of tryptamine (11.12 g, 69.3 mmol) in THF (5 mL) was added and stirred overnight. The TLC analysis indicated a complete disappearence of tryptamine. The solvent was removed and the residue was redissolved in methylene chloride (450 mL), washed with 5% HCl (4×100 mL), water, dried over MgSO4, filtered. The filtrate was swirled with 50 g of silica gel, filtered and concentracted under vacuum. The solid was crystallized from hexane-methylene chloride to furnish 13.6 g of N-cyclopropylmethyloxycarbonyltryptamine (75% yield). mp 88°-90° C.

reactant | carbonyldiimidazole | 69.3 mmol, 11.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopropylmethanol | 69.3 mmol, 5.0 g | C1(CC1)CO | C4H8O
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
reactant | tryptamine | 69.3 mmol, 11.12 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-cyclopropylmethyloxycarbonyltryptamine | 13.6 g, 75% yield | C1(CC1)COC(=O)NCCC1=CNC2=CC=CC=C12 | C15H18N2O2
